US06949579B2
11.4 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 870 mg of N-[6-chloro-5-(4-methylphenyl)-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of tetrahydrofuran. The medium is then refluxed for 20 hours and the mixture is then allowed to return to room temperature and 20 cm3 of ethyl acetate are added; the organic phase is washed with 2×20 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 2×20 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (2 kPa; 45° C.). The residue is taken up in 10 cm3 of diethyl ether, filtered off on a sinter funnel and then dried under reduced pressure (90 Pa; 50° C.) to give 195 mg of N-[6-chloro-5-(4-methylphenyl)-1H-indazol-3-yl]butanamide in the form of a beige-coloured powder.

reactant | tetrabutylammonium fluoride | 11.4 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-chloro-5-(4-methylphenyl)-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide | 870 mg | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=C(C=C1)C | C24H32ClN3O2Si
reactant | ethyl acetate | 20 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | N-[6-chloro-5-(4-methylphenyl)-1H-indazol-3-yl]butanamide | 195 mg | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=C(C=C1)C | C18H18ClN3O
